US05908858
26(i) N-(4-Chlorobenzylidene)-4-methylthioaniline
Following a procedure similar to that described in Example 1(i), but using 4-chlorobenzaldehyde and 4-methylthioaniline as starting materials, the title compound was obtained as pale yellow needle-like crystals (yield 94%).

reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-methylthioaniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | N-(4-Chlorobenzylidene)-4-methylthioaniline | ClC1=CC=C(C=NC2=CC=C(C=C2)SC)C=C1 | C14H12ClNS
